US03931199
0.57 g of magnesium, 0.8 ml of carbon tetrachloride and 3.6 ml of absolute ethanol are placed in a four-necked flask fitted with a dropping funnel, a thermometer, a reflux condenser and a stirrer. 36.5 ml of chlorobenzene is added, and then a mixture of 2.67 g of diethyl malonate, 18 ml of chlorobenzene and 12.6 ml of absolute ethanol is added dropwise, while the temperature is maintained at 65°C. The mixture is allowed to stand at 85°C for 1 hour to complete the reaction. After cooling with water, 4 g of 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid chloride is added, and the mixture is stirred at 30°-35°C for 1.5 hours. To the reaction mixture is added a mixture of 1 ml of concentrated sulfuric acid and 7 ml of water is added dropwise with stirring under ice cooling, and the precipitate (sodium sulfate) is removed by filtration. The residue is washed with water, dried, and concentrated. The residue is recrystallized from ethanol to give diethyl 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridine- 7-yl-carbonyl)malonate as white crystals melting at 137°-138.5°C.

reactant | magnesium | 0.57 g | [Mg] | Mg
reactant | diethyl malonate | 2.67 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carboxylic acid chloride | 4 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(=O)Cl | C13H6ClNO3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 7 ml | O | H2O
solvent | ethanol | 12.6 ml | C(C)O | C2H6O
solvent | chlorobenzene | 18 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 36.5 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | ethanol | 3.6 ml | C(C)O | C2H6O
solvent | carbon tetrachloride | 0.8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | diethyl 2-(5-oxo-5H-[1]benzopyrano[2,3-b]pyridine- 7-yl-carbonyl)malonate | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C(=O)C(C(=O)OCC)C(=O)OCC | C20H17NO7
